US05434165
1-(1-Azabicyclo[3.3.0]octan-5-yl)methylamino-4-nitronaphthalene
1-Chloro-4-nitronaphthalene and (1-azabicyclo[3.3.0]octan-5-yl)methylamine were reacted in the same manner as in Example 1 to obtain the titled compound in a yield of 50.9%.

reactant | 1-Chloro-4-nitronaphthalene | ClC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C10H6ClNO2
reactant | (1-azabicyclo[3.3.0]octan-5-yl)methylamine | N12CCCC2(CCC1)CN | C8H16N2
product | 1-(1-Azabicyclo[3.3.0]octan-5-yl)methylamino-4-nitronaphthalene | yield of 50.9% | N12CCCC2(CCC1)CNC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C18H21N3O2
